US04879295
To a solution of 2-(2-nitrophenyl)-N-(1H-tetrazole-5-yl)-4-thiazolecarboxamide (200 mg) in a mixed solvent of dry tetrahydrofuran (THF, 30 ml) and dry DMF (13.7 ml) was added (10%) palladium on charcoal (200 mg) and the mixture was hydrogeneted for 22 hours. The catalyst was sucked off and the filtrate was concentrated under reduced pressure. The residue was treated with water (200 mg) to form crystals, which were filtered and dried to give colorless solids of 2-(2-aminophenyl)-N-(1H-tetrazole-5-yl)-4-thiazolecarboxamide (162 mg, 89%).

reactant | 2-(2-nitrophenyl)-N-(1H-tetrazole-5-yl)-4-thiazolecarboxamide | 200 mg | [N+](=O)([O-])C1=C(C=CC=C1)C=1SC=C(N1)C(=O)NC1=NN=NN1 | C11H7N7O3S
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | palladium on charcoal | 200 mg | [Pd] | Pd
solvent | DMF | 13.7 ml | CN(C)C=O | C3H7NO
product | 2-(2-aminophenyl)-N-(1H-tetrazole-5-yl)-4-thiazolecarboxamide | 162 mg, 89% | NC1=C(C=CC=C1)C=1SC=C(N1)C(=O)NC1=NN=NN1 | C11H9N7OS
